US08614239B2
Preparation of Intermediate 6-(4-Bromo-2-fluoro-phenyl)-8-cyclopropanesulfonyl-4,5-difluoro-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-25a)
Intermediate I-25a was prepared from 6-(4-bromo-2-fluoro-phenyl)-4,5-difluoro-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-16a: 220 mg, 0.57 mmol), cyclopropanesulfonyl chloride (120 mg, 0.86 mmol) and NaH (34 mg, 0.86 mmol) using procedures analogous to those described above for Intermediate I-19a to afford 135 mg of the product (48.5% yield). H1NMR (DMSO-d6, 300 MHz): δ 8.97 (s, 1H), 7.97 (dd, 1H), 7.80 (t, 1H), 7.70 (dd, 1H), 3.54-3.44 (m, 1H), 1.48-1.39 (m, 2H), 1.34-1.26 (m, 2H). HPLC: 94.1%

reactant | 6-(4-bromo-2-fluoro-phenyl)-4,5-difluoro-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 0.57 mmol, 220 mg | BrC1=CC(=C(C=C1)N1C(NC2=C1C(=C(C=1N=COC12)F)F)=O)F | C14H5BrF3N3O2
reactant | cyclopropanesulfonyl chloride | 0.86 mmol, 120 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaH | 0.86 mmol, 34 mg | [H-].[Na+]
product | 6-(4-Bromo-2-fluoro-phenyl)-8-cyclopropanesulfonyl-4,5-difluoro-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 135 mg, 48.5% yield | BrC1=CC(=C(C=C1)N1C(N(C2=C1C(=C(C=1N=COC12)F)F)S(=O)(=O)C1CC1)=O)F | C17H9BrF3N3O4S
